US07960552B2
Methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (109 mg, 0.39 mmol), (3,5-dicyclopentyl-4-isoxazolyl)methanol (92 mg, 0.39 mmol), triphenyl phosphine (102 mg, 0.39 mmol), diisopropyl azodicarboxylate (0.075 mL, 0.39 mmol) and dichloromethane (3.9 mL) were placed in a microwave reaction tube, sealed and heated in a microwave reactor to 100° C. for 10 minutes. The solution was concentrated and the residue was purified by chromatography (silica gel, hexane to 1:1 ethyl acetate:hexanes). Fractions containing the product were combined and concentrated. The residue was recrystallized from ethyl acetate and filtered to yield methyl 6-(4-{[(3,5-dicyclopentyl-4-isoxazolyl)methyl]oxy}phenyl)-2-quinolinecarboxylate (67 mg, 35%). 1H NMR (400 MHz, DMSO-d6): δ 8.57 (d, J=9 Hz, 1H), 8.33 (s, 1H), 8.19 (s, 2H), 8.12 (d, J=8 Hz, 1H), 7.84 (d, J=9 Hz, 2H), 7.17 (d, J=9 Hz, 2H), 4.98 (s, 2H), 3.94 (s, 3H), 3.41-3.37 (m, 1H), 3.16 (m, 1H), 1.98-1.94 (m, 4H), 1.76-1.56 (m, 12H).

reactant | Methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 0.39 mmol, 109 mg | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C17H13NO3
reactant | (3,5-dicyclopentyl-4-isoxazolyl)methanol | 0.39 mmol, 92 mg | C1(CCCC1)C1=NOC(=C1CO)C1CCCC1 | C14H21NO2
reactant | triphenyl phosphine | 0.39 mmol, 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.39 mmol, 0.075 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 3.9 mL | ClCCl | CH2Cl2
product | methyl 6-(4-{[(3,5-dicyclopentyl-4-isoxazolyl)methyl]oxy}phenyl)-2-quinolinecarboxylate | 67 mg, 35% | C1(CCCC1)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C1CCCC1 | C31H32N2O4
